US07081463B2
2-Thienylphenyl-2-ethanol
3-Bromophenethyl alcohol (4 ml, 29.8 mmol) was dissolved in 1,2-dimethoxyethane (225 mL) and mixed with tetrakistriphenylphosphine palladium[0] (2.6 g, 2.25 mmol) at room temperature. The reaction mixture was then added to a solution of 2-thienyl-boronic acid (12.6 g, 99 mmol) and 1 N NaHCO3 (90 mL). The reaction mixture was heated to reflux under nitrogen atmosphere for 48 hours. The reaction mixture was partitioned with water and ethyl acetate. The organic layer was dried with MgSO4, filtered through a plug of silica and the solvent was evaporated in vacuo to yield a crude oil. The crude oil was purified via flash chromatography (30% EtOAc/hexane) to yield the title compounds as an oil.

reactant | 3-Bromophenethyl alcohol | 29.8 mmol, 4 ml | BrC=1C=C(CCO)C=CC1 | C8H9BrO
reactant | 2-thienyl-boronic acid | 99 mmol, 12.6 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | NaHCO3 | 1 N, 90 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 225 mL | COCCOC | C4H10O2
product | 2-Thienylphenyl-2-ethanol | S1C(=CC=C1)C(CO)C1=CC=CC=C1 | C12H12OS
